US07655768B2
Step 1. Synthesis of 11-{(methylsulfonyl)oxy}-3,6,9-trioxaundecanol
250 mL of dichloromethane was added to 25 g of tetraethylene glycol and 32.8 g of silver oxide, and then a solution of 17.7 g of methanesulfonyl chloride in 50 ml of dichloromethane was added dropwise. After stirring the reaction solution at room temperature for 2 days, the solution was filtered with a celite, and then the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column chromatography to obtain 24 g of the objective compound.

reactant | tetraethylene glycol | 25 g | C(COCCOCCOCCO)O | C8H18O5
reactant | methanesulfonyl chloride | 17.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | silver oxide | 32.8 g | [Ag]=O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 11-{(methylsulfonyl)oxy}-3,6,9-trioxaundecanol | 24 g | CS(=O)(=O)OCCOCCOCCOCCO | C9H20O7S
